US05556864
11(a) 2-{2-[4-(3,5-Dimethoxyphenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 1.9 g of 2-[4-(3,5-dimethoxyphenyl)butyl]phenol (prepared as described in Preparation 9), 0.75 g of potassium t-butoxide and 0.91 g of epichlorohydrin were reacted in 20 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified to give 1.81 g (yield 80%) of the title compound as a colorless oil.

reactant | 2-[4-(3,5-dimethoxyphenyl)butyl]phenol | 1.9 g | COC=1C=C(C=C(C1)OC)CCCCC1=C(C=CC=C1)O | C18H22O3
reactant | potassium t-butoxide | 0.75 g | CC(C)([O-])C.[K+]
reactant | epichlorohydrin | 0.91 g | C(Cl)C1CO1 | C3H5ClO
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(3,5-Dimethoxyphenyl)butyl]phenoxymethyl}oxirane | 1.81 g, yield 80% | COC=1C=C(C=C(C1)OC)CCCCC1=C(OCC2OC2)C=CC=C1 | C21H26O4
